US05281742
4 N potassium hydroxide aqueous solution (4.75 liters) was added to an ethanol solution (3 liters) of methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate (2.25 kg, 7.85 mol) and the mixture was heated under reflux for 5 hours. After reaction, the reaction liquid was cooled to room temperature, water (5 liters) was added thereto, and this was extracted with toluene (5 liters ×2). The organic layer was washed with water and then dried over anhydrous magnesium sulfate. The drying agent was taken out by filtration, and the solvent was removed by distillation under reduced pressure to obtain an oily product of 2-fluoro-4-chloro-5-cyclopentyloxyaniline (1.75 kg, 7.62 mol). Yield: 98.3 %. Spectral data and other data of the product are those as shown in Example 21.

reactant | potassium hydroxide | 4 N, 4.75 liters | [OH-].[K+]
reactant | ethanol | 3 liters | C(C)O | C2H6O
reactant | methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | 7.85 mol, 2.25 kg | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OC)=O | C13H15ClFNO3
solvent | water | 5 liters | O | H2O
product | 2-fluoro-4-chloro-5-cyclopentyloxyaniline | 7.62 mol, 1.75 kg, Yield: 98.3 % | FC1=C(N)C=C(C(=C1)Cl)OC1CCCC1 | C11H13ClFNO
